US04631274
To a solution of benzhydryl 7-(4-bromo-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (3.5 g) in a mixture of methylene chloride (32 ml) and acetic acid (12 ml) was dropwise added an aqueous solution (3 ml) of sodium nitrite (0.61 g) at -22° C. and the mixture was stirred for 6 minutes at the same temperature to give a reaction mixture containing benzhydryl 7-(4-bromo-2-hydroxyimino-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate. To the reaction mixture was added ethyl acetate (0.77 g). The mixture was stirred for 5 minutes at -20° C. and washed with water and 10% aqueous solution of sodium chloride successively, and a mixture of thiourea (0.54 g) and N,N-dimethylacetamide (7.0 ml) was added thereto at 36° C. The mixture was evaporated to remove methylene chloride. The residue was dissolved in ethyl acetate, washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was triturated with diisopropyl ether and collected by filtration to give benzhydryl 7-[2-hydroxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate (syn isomer) (2.65 g).

reactant | benzhydryl 7-(4-bromo-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 3.5 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C26H22BrClN2O5S
reactant | sodium nitrite | 3 ml, 0.61 g | N(=O)[O-].[Na+]
reactant | benzhydryl 7-(4-bromo-2-hydroxyimino-3-oxobutyramido)-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO)=O | C26H21BrClN3O6S
reactant | ethyl acetate | 0.77 g | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 32 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | benzhydryl 7-[2-hydroxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-[(E)-2-chlorovinyl]-3-cephem-4-carboxylate | 2.65 g | ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C27H22ClN5O5S2
